*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends



.options savecurrents

* Sources
Vcc vcc 0 10.0
Vee vee 0 -10.0
Vin in 0 0 ac 1.0 sin(0 0.1 1k)

X1 ninv_in inv_in vcc vee amp_out uA741


* Resistors
R1 ninv_in 0 1k
R4 inv_in 0 1k
R5 inv_in amp_out 100k
R2 amp_out out 0.5k 

* Capacitors
Cin in ninv_in 220nF
Cout out 0 220nF 

* Load


.op
.end

.control

print all

* time analysis
tran 1e-5 1e-2
plot v(out)
hardcopy vo1.ps vdb(out)


* frequency analysis
ac dec 10 10 10k
plot vdb(out)
plot vp(out)
hardcopy vo1f.eps vdb(out)

* Output Specific Frequencies
meas ac max MAX vdb(out) from=500 to=10000
*let lim = {max-3}
meas ac p1 FIND vdb(out) AT=500
meas ac p2 FIND vdb(out) AT=600
meas ac p3 FIND vdb(out) AT=700
meas ac p4 FIND vdb(out) AT=800
meas ac p5 FIND vdb(out) AT=900
meas ac p6 FIND vdb(out) AT=1000
meas ac p7 FIND vdb(out) AT=1100
meas ac p8 FIND vdb(out) AT=1200
meas ac p9 FIND vdb(out) AT=1300
meas ac p10 FIND vdb(out) AT=1400
meas ac p11 FIND vdb(out) AT=1500
meas ac p12 FIND vdb(out) AT=2000
meas ac p13 FIND vdb(out) AT=2500
meas ac p14 FIND vdb(out) AT=3000
meas ac p15 FIND vdb(out) AT=3500
meas ac p16 FIND vdb(out) AT=4000
meas ac p17 FIND vdb(out) AT=4500
meas ac p18 FIND vdb(out) AT=5000
meas ac p19 FIND vdb(out) AT=5500
meas ac p20 FIND vdb(out) AT=6000
meas ac p21 FIND vdb(out) AT=10000

*input impedance in kohm
print v(in)/vin#branch/(1000)

*need a different setup to measure output impedance

.endc 

